US09353108B2
I) Ethyl 6-(1-(tert-butoxycarbonyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate
A mixture of diethyl 2-propyl-6-vinylpyridine-3,5-dicarboxylate (9.00 g), tert-butyl 4-aminopiperidine-1-carboxylate (7.42 g) and N-ethyl-N-isopropylpropan-2-amine (8.09 mL) in DMA (45 mL) was stirred at 130 to 140° C. for 4.5 hours. The mixture was poured into water at room temperature and extracted with ethyl acetate. The organic layer was separated, washed with brine twice, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was passed through a silica gel-pad (hexane/ethyl acetate), and concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate) to give the title compound (10.0 g).

reactant | diethyl 2-propyl-6-vinylpyridine-3,5-dicarboxylate | 9.00 g | C(CC)C1=NC(=C(C=C1C(=O)OCC)C(=O)OCC)C=C | C16H21NO4
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 7.42 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 8.09 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMA | 45 mL | CC(=O)N(C)C | C4H9NO
product | Ethyl 6-(1-(tert-butoxycarbonyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 10.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OCC)=O | C24H35N3O5
